US07906517B2
Ethyl 4-{2-[(3,5-bis-trifluoromethyl-benzyl)-(2-dimethylamino-5-trifluoromethyl-benzyl)-amino]-pyrimidin-5-yloxy}-butyrate (90 mg) is dissolved in ethanol (2 ml), and thereto is added a 2N-aqueous sodium hydroxide solution (207 μl), and the mixture is stirred at room temperature overnight. Thereto are added ethyl acetate and a 1N-hydrochloric acid, and the mixture is separated, and the organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (hexane:ethyl acetate=9:1→1:4) to give 4-{2-[(3,5-bis-trifluoromethyl-benzyl)-(2-dimethylamino-5-trifluoromethyl-benzyl)-amino]-pyrimidin-5-yloxy}-butyric acid (29 mg). The resulting carboxylic acid is dissolved in ethanol (0.5 ml) and thereto is added a 2N-aqueous sodium hydroxide solution (23 μl) and the reaction solution is concentrated under reduced pressure to give 4-{2-[(3,5-bis-trifluoromethyl-benzyl)-(2-dimethylamino-5-trifluoromethyl-benzyl)-amino]-pyrimidin-5-yloxy}-butyric acid ethyl ester sodium salt (30 mg). MS (m/z): 623 [M−Na]−

reactant | Ethyl 4-{2-[(3,5-bis-trifluoromethyl-benzyl)-(2-dimethylamino-5-trifluoromethyl-benzyl)-amino]-pyrimidin-5-yloxy}-butyrate | 90 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)OCCCC(=O)OCC)CC2=C(C=CC(=C2)C(F)(F)F)N(C)C)C=C(C1)C(F)(F)F)(F)F | C29H29F9N4O3
reactant | sodium hydroxide | 207 μl | [OH-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 4-{2-[(3,5-bis-trifluoromethyl-benzyl)-(2-dimethylamino-5-trifluoromethyl-benzyl)-amino]-pyrimidin-5-yloxy}-butyric acid | 29 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)OCCCC(=O)O)CC2=C(C=CC(=C2)C(F)(F)F)N(C)C)C=C(C1)C(F)(F)F)(F)F | C27H25F9N4O3
